US06753327B1
a) Ethyl 2-(E-2-(4-(N,N-dimethylaminomethyl)phenyl)ethen-1-yl)benzoate
18.8 g (82 mmol) of ethyl 2-bromobenzoate, 17.2 g (107 mmol) of 4-(N,N,-dimethylaminomethyl)styrene [sic], 20.7 g (205 mmol) of triethylamine, 0.36 g of palladium(II) acetate and 0.96 g of tri(o-tolyl)phosphine were mixed in 200 ml of dimethylformamide and, after addition of 1 ml of water, stirred at 140° C. for 3 h. The reaction mixture was then concentrated in vacuo, and the resulting residue was partitioned between ethyl acetate and water. The organic phase was separated off, washed with water, dried and concentrated in vacuo. The residue was then recrystallized from petroleum ether. 16.1 g (63%) of the product were obtained.

reactant | ethyl 2-bromobenzoate | 82 mmol, 18.8 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | 4-(N,N,-dimethylaminomethyl)styrene | 107 mmol, 17.2 g | CN(C)CC1=CC=C(C=C)C=C1 | C11H15N
reactant | triethylamine | 205 mmol, 20.7 g | C(C)N(CC)CC | C6H15N
reactant | water | 1 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.36 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(o-tolyl)phosphine | 0.96 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | Ethyl 2-(E-2-(4-(N,N-dimethylaminomethyl)phenyl)ethen-1-yl)benzoate | 16.1 g, 63% | CN(C)CC1=CC=C(C=C1)/C=C/C1=C(C(=O)OCC)C=CC=C1 | C20H23NO2
